US07919519B2
A reactor was charged with methyl 1-benzhydryl-3-hydroxyazetidine-3-carboxylate (1.6 g, 5.4 mmol), 10% Pd/C (0.300 g, 2.8 mmol), and glacial acetic acid (0.300 mL, 5.2 mmol) in MeOH (30 mL). The mixture was allowed to stir for 3 h under 50 psig of H2. The crude was filtered through Celite and rinsed with MeOH. After evaporation, the solid was rinsed with Et2O to give methyl 3-hydroxyazetidine-3-carboxylate as the acetic acid salt. 1H NMR (300 MHz, DMSO-d6) δ ppm 3.74 (d, J=9.1 Hz, 2H), 3.69 (s, 3H), 3.44 (d, J=8.9 Hz, 2H), 1.88 (s, 3H).

reactant | methyl 1-benzhydryl-3-hydroxyazetidine-3-carboxylate | 5.4 mmol, 1.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C(=O)OC)O | C18H19NO3
reactant | acetic acid | 5.2 mmol, 0.300 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 2.8 mmol, 0.300 g | [Pd] | Pd
product | methyl 3-hydroxyazetidine-3-carboxylate | OC1(CNC1)C(=O)OC | C5H9NO3
